US07645753B2
4-(5-Cyano-benzooxazol-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 2-chloro-benzooxazole-5-carbonitrile (5.0 g, 28.0 mmol, 1.0 equiv; prepared as described in A. Batista-Parra, S. Venkitachalam, W. D. Wilson, D. W. Boykin Heterocycles 2003, 60, 1367-1376) in acetonitrile (65 mL) was added N-ethyl diisopropylamine (36.0 mL, 27.1 g, 210.0 mmol, 7.5 equiv) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (5.61 g, 28.0 mmol, 1.0 equiv). The reaction mixture was stirred at rt for 18 h under Ar, poured on crashed ice and the pH adjusted by addition of a solution of 37% HCl to pH 3.0. The reaction mixture was extracted with ethyl acetate (3×100 mL), the combined organic phases washed with water and dried over MgSO4. The organic solvent was evaporated under reduced pressure and the crude reaction product purified with column chromatography on silica eluting with a gradient of dichloromethane/methanol (100:0→95:5) to give 7.31 g (76%) of the title compound. MS (ESI): 343.0 [M+H]+.

reactant | 2-chloro-benzooxazole-5-carbonitrile | ClC=1OC2=C(N1)C=C(C=C2)C#N | C8H3ClN2O
reactant | N-ethyl diisopropylamine | 210.0 mmol, 36.0 mL, 27.1 g, 7.5 equiv | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | 28.0 mmol, 5.61 g, 1.0 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | HCl | Cl | ClH
solvent | acetonitrile | 65 mL | C(C)#N | C2H3N
product | 4-(5-Cyano-benzooxazol-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 7.31 g, 76% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1OC2=C(N1)C=C(C=C2)C#N | C18H22N4O3
